### PR TITLE
Prove EvalExpressionIsDefined by adding definedness propagation to WellFormedCoreEvalCong

### PR DESCRIPTION
**Pull request by tautschnig**
Add five new fields to WellFormedCoreEvalCong (absdef, appdef, eqdef, quantdef, itedef) asserting that if a compound expression is defined, its subexpressions are also defined. This enables proving all five remaining cases (abs, quant, app, ite, eq) of EvalExpressionIsDefined by structural induction.

Kiro spent 21 minutes on this proof.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/Languages/Core/StatementSemantics.lean [hunk 1]
```diff
@@ -72,7 +80,13 @@ structure WellFormedCoreEvalCong (δ : CoreEval): Prop where
       δ σ e₂ = δ σ' e₂' →
       δ σ e₃ = δ σ' e₃' →
       (δ σ (.ite m e₃ e₁ e₂) = δ σ' (.ite m e₃' e₁' e₂')))
+    /-- Definedness-propagation properties for compound expressions. -/
+    definedness : WellFormedCoreEvalDefinedness δ
 
+/-- Bundle both congruence and definedness properties for a core evaluator. -/
+structure WellFormedCoreEval (δ : CoreEval) : Prop where
```
Comment (joscoh) [inline Strata/Languages/Core/StatementSemantics.lean]: Is this structure used anywhere?

File: Strata/Languages/Core/StatementSemanticsProps.lean [hunk 2]
```diff
@@ -2102,8 +2099,26 @@ theorem EvalExpressionIsDefined :
...
-  case abs => sorry
-  case quant => sorry
-  case app => sorry
-  case ite => sorry
-  case eq => sorry
+  case abs m ty e ih =>
+    exact ih (Hwfc.definedness.absdef σ m ty e Hsome) v Hin
+  case quant m k ty tr e trih eih =>
+    have ⟨htr, he⟩ := Hwfc.definedness.quantdef σ m k ty tr e Hsome
+    rcases Hin with Hin | Hin
```
Comment (joscoh) [inline Strata/Languages/Core/StatementSemanticsProps.lean]: Optional, since it is a matter of style, but in all of these cases, after the `have ... := Hwfc.definedness...` line, the proof can be finished with `grind`. Generally, when the proof is just cases and applications of hypotheses, it is nicer to just let `grind` do the work.

File: Strata/Languages/Core/StatementSemantics.lean (hunk 1 above)
Comment (tautschnig) [reply Strata/Languages/Core/StatementSemantics.lean]: Thanks, removed.

File: Strata/Languages/Core/StatementSemanticsProps.lean (hunk 2 above)
Comment (tautschnig) [reply Strata/Languages/Core/StatementSemanticsProps.lean]: Done.
